US05747498
4-Chloro-6,7-dimethoxyquinazoline (5.01 g, 22.3 mmol) was added in portions, over 1.5 hours, to m-phenylenediamine (2.66 g, 24.6 mmol) in refluxing isopropanol (100 mL) under an atmosphere of dry nitrogen. After the addition was complete the mixture was heated at reflux for 4 hours. The mixture was cooled to 20° C., and the precipitate was filtered, washed with chilled isopropanol and dried in vacuo to afford 6.97 g (93%) of (3-aminophenyl)-(6,7-dimethoxyquinazolin-4-yl)amine hydrochloride (LC-MS: 297 (MH+). To a solution of the above product (50 mg, 0.169 mmol) in 80% acetic acid/H2O (2 mL), at 0° C., was added a solution of NaNO2 (18.4 mg, 0.186 mmol) in H2O (100 μL). After stirring 10 minutes at 0° C. a solution of NaN3 (12 mg, 0.185 mmol) in H2O (100 μL) was added. The mixture was allowed to warm to 20° C. and stirred for 1.5 hours. The reaction mixture was lyophilized and the residue partitioned between ethyl acetate and saturated aqueous NaHCO3. The organic phase was wahsed further with brine, dried over Na2SO4, filtered, and concentrated, in vacuo. Recrystallization from CHCl3 /hexanes afforded 36 mg of the title product as a white solid; mp 110°-113° C.

reactant | 4-Chloro-6,7-dimethoxyquinazoline | 22.3 mmol, 5.01 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | m-phenylenediamine | 24.6 mmol, 2.66 g | C1(=CC(=CC=C1)N)N | C6H8N2
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | (3-aminophenyl)-(6,7-dimethoxyquinazolin-4-yl)amine hydrochloride | 6.97 g, 93% | Cl.NC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC)OC | InChI=1S/C16H16N4O2.ClH/c1-21-14-7-12-13(8-15(14)22-2)18-9-19-16(12)20-11-5-3-4-10(17)6-11;/h3-9H,17H2,1-2H3,(H,18,19,20);1H
